US05116874
N-{[(4-chlorophenyl)amino]carbonyl}-2,3-dihydro-5-benzofuransulfonamide
The title product was prepared in 26.1% yield from 2,3-dihydro-5-benzofuransulfonamide and 4-chlorophenylisocyanate following the procedure of Example 1, m.p. 190°-194° C.

reactant | 2,3-dihydro-5-benzofuransulfonamide | O1CCC2=C1C=CC(=C2)S(=O)(=O)N | C8H9NO3S
reactant | 4-chlorophenylisocyanate | ClC1=CC=C(C=C1)N=C=O | C7H4ClNO
product | N-{[(4-chlorophenyl)amino]carbonyl}-2,3-dihydro-5-benzofuransulfonamide | 26.1% yield | ClC1=CC=C(C=C1)NC(=O)NS(=O)(=O)C=1C=CC2=C(CCO2)C1 | C15H13ClN2O4S
